US09085555B2
B. (2S,4R)-4-Fluoro-4-methyl-pyrrolidine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester
To a solution of (2S,4R)-4-fluoro-4-(4-fluoro-phenoxythiocarbonyloxymethyl)-pyrrolidine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester (290 mg, 0.57 mmol) in dioxane (5 mL) were added VAZO (69 mg, 0.28 mmol) and tris(trimethylsilyl)silane (0.24 mL, 0.77 mmol). The reaction mixture was refluxed for 30 min then was stirred for 16 h at RT and concentrated. Purification by flash column chromatography on silica gel (c-hexane/EtOAc 4:1). MS (UPLC/MS): 338 [M+H]+; tR (HPLC conditions f): 2.38 min.

reactant | (2S,4R)-4-fluoro-4-(4-fluoro-phenoxythiocarbonyloxymethyl)-pyrrolidine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester | 0.57 mmol, 290 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@](C1)(COC(=S)OC1=CC=C(C=C1)F)F)C(=O)OCC1=CC=CC=C1 | C25H27F2NO6S
reactant | VAZO | 0.28 mmol, 69 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | tris(trimethylsilyl)silane | 0.77 mmol, 0.24 mL | C[Si](C)(C)[SiH]([Si](C)(C)C)[Si](C)(C)C | C9H28Si4
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | (2S,4R)-4-Fluoro-4-methyl-pyrrolidine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@](C1)(C)F)C(=O)OCC1=CC=CC=C1 | C18H24FNO4
